US05635527
Then, 3-(4-methoxyphenyl)propionic acid (330 mg, 1.83 mmol) and ethyl (S)-2-amino-3-(4-nitrophenyl)propionate hydrochloride (500 mg, 1.82 mmol) were dissolved in N,N-dimethylformamide (30 ml). 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide (384 mg, 2.00 mmol), 1-hydroxy-1H-benzotriazole (270 mg, 2.00 mmol) and N-methylmorpholine (0.25 ml, 2.27 mmol) were added, and the mixture was stirred at room temperature for 21hours. Water (500 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away, from the filtrate under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1) to give 292 mg of ethyl (S)-2-[3-(4-methoxyphenyl)propionylamino]-3-(4-nitrophenyl)propionate as a colorless solid (40%). This solid (280 mg, 0.699 mmol) was dissolved in ethanol (30 ml) and 10% palladium-carbon (100 mg) was added. The mixture was refluxed under heating for 14 hours under a hydrogen atmosphere. The reaction mixture was cooled to room temperature and filtrated. Low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1-3/7) to give 171 mg of ethyl (S)-3-(4-aminophenyl)-2-[3-(4-methoxyphenyl) propionyl-amino]propionate as a colorless solid (66%).

reactant | 3-(4-methoxyphenyl)propionic acid | 1.83 mmol, 330 mg | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | ethyl (S)-2-amino-3-(4-nitrophenyl)propionate hydrochloride | 1.82 mmol, 500 mg | Cl.N[C@H](C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-]
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide | 2.00 mmol, 384 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxy-1H-benzotriazole | 2.00 mmol, 270 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 2.27 mmol, 0.25 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | 500 ml | O | H2O
product | ethyl (S)-2-[3-(4-methoxyphenyl)propionylamino]-3-(4-nitrophenyl)propionate | 292 mg, 40% | COC1=CC=C(C=C1)CCC(=O)N[C@H](C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C21H24N2O6
